US06150373
A mixture of 200 mg (0.52 mmol) of 3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydro-1-[3-(2-phthalimidoethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one and 3 ml of aniline was heated at 180° C. for 40 minutes and then cooled. The mixture was partitioned between 40 ml of dichloromethane and 40 ml of 2M hydrochloric acid. The organic phase was dried over magnesium sulfate, filtered and evaporated. The residue was subjected to column chromatography on silica gel using diethyl ether/hexane (1:1) for the elution. The product-containing fractions were combined and evaporated to give 30 mg (29%) of 7-anilino3-(2,6-dichlorophenyl)-3,4-dihydro-1-[3-(2-phthalimidoethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid of melting point 142° C.

reactant | 3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydro-1-[3-(2-phthalimidoethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.52 mmol, 200 mg | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C1=CC(=CC=C1)CCN1C(C=2C(C1=O)=CC=CC2)=O)=O | C29H21Cl2N5O5S
reactant | aniline | 3 ml | NC1=CC=CC=C1 | C6H7N
product | 7-anilino3-(2,6-dichlorophenyl)-3,4-dihydro-1-[3-(2-phthalimidoethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one | 30 mg, 29% | N(C1=CC=CC=C1)C1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2Cl)Cl)=O)C2=CC(=CC=C2)CCN2C(C=1C(C2=O)=CC=CC1)=O | C34H24Cl2N6O3
